US07405299B2
B. Preparation of 6-Bromo-imidazo[1,2-a]pyridine-3-carboxylic acid (2-dimethylamino-ethyl)-amide
Add 6-bromo-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester (0.11 g, 0.41 mmol) to a sealed tube containing N,N-dimethyl-ethane-1,2-diamine (5 mL). Heat the reaction at 150° C. for 24 h. Flash chromatography using appropriate mixtures of dichloromethane/2M ammonia in methanol gives 0.14 g of the product as a yellow oil. This material is progressed further without characterization. MS ES− m/e 269.0, 311.0 (M−1).

reactant | 6-bromo-imidazo[1,2-a]pyridine-3-carboxylic acid ethyl ester | 0.41 mmol, 0.11 g | C(C)OC(=O)C1=CN=C2N1C=C(C=C2)Br | C10H9BrN2O2
reactant | N,N-dimethyl-ethane-1,2-diamine | 5 mL | CN(CCN)C | C4H12N2
reactant | dichloromethane | 2M | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 6-Bromo-imidazo[1,2-a]pyridine-3-carboxylic acid (2-dimethylamino-ethyl)-amide | 0.14 g | CN(CCNC(=O)C1=CN=C2N1C=C(C=C2)Br)C | C12H15BrN4O
